US08809382B2
Step 4: 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(R)-methyl-5-oxo-pentanoic acid
To the solution of 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(R)-methyl-5-oxo-pentanoic acid methyl ester in THF was added 1.2N HCL and was stirred at 60 0 C for 30 hours. The reaction mixture was then treated with water and ethyl acetate. The product was purified by column chromatography.

reactant | 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(R)-methyl-5-oxo-pentanoic acid methyl ester | COC(C[C@@H](CC(=O)N1C(=CC2=CC=C(C=C12)Cl)CCCCCC)C)=O | C21H28ClNO3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 5-(6-Chloro-2-hexyl-indol-1-yl)-3-(R)-methyl-5-oxo-pentanoic acid | ClC1=CC=C2C=C(N(C2=C1)C(C[C@H](CC(=O)O)C)=O)CCCCCC | C20H26ClNO3
